US05780648
[2-(4-Methoxyphenyl)-6-methoxybezo[b]thien-3-yl][4-methylphenyl]methanone
In a manner similar to that used in Preparation 3, 2.32 g (15 mmol) of 4-methylbenzoyl chloride, 2 g (7.4 mmol) of 2-(4-methoxyphenyl)-6-methoxybenzo[b]thiophene, and 5.3 g (40 mmol) of AlCl3 were converted to 1.9 g of the title compound, crystallized from Et2O and isolated as a light yellow powder.

reactant | 4-methylbenzoyl chloride | 15 mmol, 2.32 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | 2-(4-methoxyphenyl)-6-methoxybenzo[b]thiophene | 7.4 mmol, 2 g | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC | C16H14O2S
reactant | AlCl3 | 40 mmol, 5.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
product | [2-(4-Methoxyphenyl)-6-methoxybezo[b]thien-3-yl][4-methylphenyl]methanone | 1.9 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)C | C24H20O3S
